Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine / Augmentin / azithromycin / ketoconazole / paclitaxel
 
Attending: ___.
 
Chief Complaint:
fatigue, malaise
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ with Stage IIc ovarian cancer on doxil/carboplatin C6D16, 
depression, IBS, chronic headaches, who presents with one day 
history of overall fatigue and malaise. Patient was recently 
admitted to hospital from ___ with similar symptoms 
for IVF and received 1 unit PRBC. On day prior to admission, she 
began feeling overall weakness with dehydration, generalized 
myalgias and arthralgias without any localizing symptoms, joint 
swelling, erythema, or history of trauma. She took two oxycodone 
(5mg each tablet) for bilateral arm pain without much relief. 
She had two episodes of loose stool (non watery, non explosive, 
non bloody). She denies any fevers, chills, nausea, vomiting, 
CP, SOB, or abdominal pain. No spontaneous hemorrhage, no 
petechiae. 

ED Course: 
Triage vitals  19:39 97.3 76 ___ 100% 
Given 1mg IV dilaudid and 1L NS
 
Past Medical History:
PAST ONCOLOGIC HISTORY:  
___, pt presented at ___ with acute RLQ 
abdominal pain. CT there was notable for 6.3 cm right ovarian 
cyst.  
___, she had a right ovarian laparoscopic cystectomy, 6-7 cm 

cyst removed with intra-operative rupture, by report there was 
no ovarian surface involvement by tumor. ___ path review of it 

showed high grade serous carcinoma. 
___, pt was taken to OR by Dr. ___ a laparoscopy 
converted to laparotomy with TAH/BSO, pelvic tumor resection, 
total pelvic lymphadenectomy, para-aortic LN resection, 
infracolic omemtectomy, peritoneal biopsies was performed. 
Post-op she was noted to have tachycardia to 130 bpm with normal 

blood pressures and oxygen saturation. CTA chest demonstrated no 

evidence of cardiopulmonary process. Her symptoms eventually 
resolved and did not recur.  She also had a fever, but 
infectious w/u was negative and she defervesced spontaneously. 
She was discharged on ___.  Path showed ovarian serous 
carcinoma, no positive LNs, right pelvic sidewall positive for 
carcinoma, grade 3, with positive washings, thus staged as IIc. 
___, poc placed
___, C1D1 ___ initiated, but pt had a reaction 14 
minutes into the Taxol infusion and was sent to ED for chest 
pain that did not resolve in the clinic 
___, C1D1 ___
___ Pt admitted to ___ for weakness
___ Pt in ED for observation (weakness)
___ Pt in ED for observation (chest pain)
___ - Pt in ED for observation (weakness)
___- C6 doxil/carboplatin 

PAST MEDICAL HISTORY:  
Connective tissue disorder  
Raynaud's syndrome  
Depression  
Irritable bowel syndrom  
Osteoporosis  
Headache  
Uterine fibroids  
s/p wrist surgery  

 
Social History:
___
Family History:
Paternal great aunt had postmenopausal breast cancer. Maternal  
great uncle had colon cancer. Mother and grandfather have high  
blood pressure. Mother has DM, and father has psoriasis. She  
otherwise denies a family history of ovarian, uterine, cervical  

or vaginal cancer  

 
Physical Exam:
Physical Exam:
98.5   110/77    79     16   100%RA
GEN: NAD, says she doesn't feel well
HEENT: PERRL, EOMI, moist mucosal membranes, oropharynx clear, 
no LAD
Resp: CTAB, no wheezes, rales or rhonchi.
CV: RRR without m/r/g, nl S1 S2. 
ABD: Normal bowel sounds, non-tender, not distended
EXTR: Warm, well perfused. No clubbing or edema. No calf 
tenderness, 2+ pulses. 
NEURO: alert and oriented x3, CN ___ grossly intact, motor
grossly intact without focal deficit, 2+ reflexes 
 
Pertinent Results:
___ 08:20PM BLOOD WBC-2.7* RBC-2.93* Hgb-8.6* Hct-25.3* 
MCV-86 MCH-29.5 MCHC-34.2 RDW-15.5 Plt Ct-10*
___ 05:05AM BLOOD WBC-2.8* RBC-2.83* Hgb-8.4* Hct-24.2* 
MCV-86 MCH-29.7 MCHC-34.7 RDW-15.2 Plt Ct-8*
___ 06:14AM BLOOD WBC-2.5* RBC-2.76* Hgb-8.4* Hct-24.2* 
MCV-87 MCH-30.2 MCHC-34.6 RDW-15.3 Plt Ct-37*
___ 06:07AM BLOOD WBC-2.5* RBC-2.61* Hgb-8.0* Hct-22.9* 
MCV-88 MCH-30.6 MCHC-34.9 RDW-15.3 Plt Ct-38*
___ 06:07AM BLOOD Neuts-49.2* Lymphs-43.5* Monos-6.8 
Eos-0.4 Baso-0.2
___ 06:14AM BLOOD Glucose-92 UreaN-9 Creat-0.7 Na-142 K-3.6 
Cl-102 HCO3-31 AnGap-13
___ 08:20PM BLOOD Glucose-103* UreaN-15 Creat-0.6 Na-143 
K-3.5 Cl-105 HCO3-31 AnGap-11
___ 06:14AM BLOOD Calcium-9.3 Phos-4.1 Mg-1.6
___ 08:30PM BLOOD Lactate-0.9

CXR
FINDINGS:
 
PA and lateral views of the chest were provided.  A right chest 
wall
Port-A-Cath is again noted with its tip extending into the low 
SVC region. 
The lungs are clear without signs of pneumonia or CHF.  No 
pleural effusion or
pneumothorax is seen.  The cardiomediastinal silhouette is 
normal.  The bony
structures are intact.  No free air below the right 
hemidiaphragm is seen.  
 
IMPRESSION:
 
No evidence of pneumonia. 
 
Brief Hospital Course:
the patient was admitted to the hospital for thrombocytopenia 
and for management of her generalized fatigue and malaise. Her 
platelet count improved from 8 to ~40 after transfusion and 
remained stable. Her platelet count has been decreasing steadily 
since her last chemotherapy and is most likely due to 
chemotherapy related myelosuppression. Regarding her fatigue and 
malaise, the patient has been seen numerous times for this 
problem in the outpatient clinic, ED, and inpatient setting. She 
continues to complain of feeling unwell and routinely asks that 
she be allowed to stay another day in the hospital. She reports 
fear that she will go home and not be able to control her 
symptoms. She usually reports feeling a bit better after IV 
hydration, but generally there have been no objective signs of 
dehydration or hypovolemia. She also seems to develop additional 
symptoms when the possibility of discharge is mentioned. I had a 
long talk with ___ on this admission that while I don't doubt 
that she has symptoms, many of them do not require hospital 
admission for workup or treatment. On the day prior to discharge 
she reported a sinus headache for which she was given sudafed, 
loratidine, flonase. She reported only slight improvement with 
these and feels that she is not ready to leave the hospital 
because of sinus pain. She has been taking morphine for this 
while here and says she has been using oxycodone at home "to 
sleep" when she is uncomfortable. I explained to her that these 
medications have high addiction potential and should only be 
used for specific pain that is not controlled with tylenol or 
other NSAIDs. She agrees to be more careful about only using 
pain medications for pain, and not to help her sleep. 
I explained to ___ that it is normal to feel worn out after 
the chemo that she has had, and that it may take many weeks for 
her body to recover, and that she only needs to be in the 
hospital when there is some danger to her body. she says she 
feels "terrible" and no one understands what she is going 
through. She will continue to follow in the outpatient clinic 
for help with symptom management until she is feeling better. 
I also spoke with ___ mother ___, who is wondering why 
___ is not better able to tolerate minor symptoms at home and 
why she becomes so concerned about non-life threatening symptoms 
that she insists on coming to the ER. We will continue to work 
on reinforcing to ___ that what she is feeling is normal after 
everything she has been through, that many of her symptoms don't 
require ER or hospital evaluation, and that it will get better 
with time. 

# Dispo: 
[x] Discharge documentation reviewed, pt is stable for 
discharge.
[x] Time spent on discharge activity was greater than 30min.
[ ] Time spent on discharge activity was less than 30min.

# Active meds: See below.

____________________________________
___, MD ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amitriptyline 10 mg PO HS 
2. Bisacodyl 10 mg PO/PR DAILY 
3. Duloxetine 90 mg PO DAILY 
4. Gabapentin 300 mg PO BID 
5. Hydrocortisone Cream 0.5% 1 Appl TP TID:PRN skin rash 
6. Loratadine 10 mg PO DAILY 
7. Lorazepam 0.5 mg PO Q8H:PRN nausea/vomiting 
8. Multivitamins 1 TAB PO DAILY 
9. Nystatin 500,000 UNIT PO Q8H 
10. Omeprazole 40 mg PO DAILY 
11. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN pain 
12. Polyethylene Glycol 17 g PO DAILY 
13. Senna 1 TAB PO BID:PRN constipation 
14. Vitamin D ___ UNIT PO DAILY Vitamin D deficiency 

 
Discharge Medications:
1. Amitriptyline 10 mg PO HS 
2. Bisacodyl 10 mg PO/PR DAILY 
3. Duloxetine 90 mg PO DAILY 
4. Gabapentin 300 mg PO BID 
5. Hydrocortisone Cream 0.5% 1 Appl TP TID:PRN skin rash 
6. Loratadine 10 mg PO DAILY 
7. Lorazepam 0.5 mg PO Q8H:PRN nausea/vomiting 
8. Multivitamins 1 TAB PO DAILY 
9. Omeprazole 40 mg PO DAILY 
10. Polyethylene Glycol 17 g PO DAILY 
11. Senna 1 TAB PO BID:PRN constipation 
12. Vitamin D ___ UNIT PO DAILY Vitamin D deficiency 
13. Acetaminophen 325-650 mg PO Q6H:PRN pain 
14. Morphine Sulfate ___ 15 mg PO Q6H:PRN pain 
RX *morphine 15 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*10 Tablet Refills:*0
15. Nystatin 500,000 UNIT PO Q8H 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
thrombocytopenia
malaise
myalgias
sinus headache
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were admitted to the hospital with fatigue, weakness, muscle 
aches. You were found to have low platelets and given a platelet 
transfusion. While here you developed a sinus headache which is 
slightly better with pain medication and antihistamines. You 
received IV fluids which helped you feel a bit better. You may 
have a viral illness, in which case this will take a few days to 
resolve. You should start to feel better over the next few days. 

 
Followup Instructions:
___